US05977105
(±)-α-(4-(4-Hydroxyphenoxy)phenoxymethyl)-3-pyridinepropanol
Prepared according to the method described in Example 5 from 4,4'-dihydroxydiphenyl ether (1.68 g), (±)-3-(2-oxiranylethyl)pyridine (1.24 g) and sodium hydride (60% dispersion in oil; 0.319 g) in dimethylformamide (20 ml) at 100° C. for 2 hours to give the title compound as a white solid (0.41 g).

reactant | 4,4'-dihydroxydiphenyl ether | 1.68 g | C1=CC(=CC=C1O)OC2=CC=C(C=C2)O | C12H10O3
reactant | (±)-3-(2-oxiranylethyl)pyridine | 1.24 g | O1C(C1)CCC=1C=NC=CC1 | C9H11NO
reactant | sodium hydride | 0.319 g | [H-].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (±)-α-(4-(4-Hydroxyphenoxy)phenoxymethyl)-3-pyridinepropanol | 0.41 g | OC1=CC=C(OC2=CC=C(OCC(CCC=3C=NC=CC3)O)C=C2)C=C1 | C21H21NO4
